US06156757
A mixture of intermediate (1) (0.03 mol), ethyl (5-chloropentyl)carbamate (0.04 mol), potassium iodide (0.1 g) and Na2CO3 (5.7 g) in toluene (250 ml) was stirred and refluxed overnight. The reaction mixture was cooled, stirred in water (200 ml), and the layers were separated. The organic phase was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 95/5). The pure fractions were collected and the solvent was evaporated, yielding 7 g of ethyl [5-(3,4-dihydrobenzofuro[3,2-c]pyridin-2(1H)-yl)pentyl]carbamate (interm. 15).

reactant | ethyl (5-chloropentyl)carbamate | 0.04 mol | ClCCCCCNC(OCC)=O | C8H16ClNO2
reactant | Na2CO3 | 5.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
catalyst | potassium iodide | 0.1 g | [I-].[K+]
product | ethyl [5-(3,4-dihydrobenzofuro[3,2-c]pyridin-2(1H)-yl)pentyl]carbamate | 7 g | C1N(CCC2=C1C1=C(O2)C=CC=C1)CCCCCNC(OCC)=O | C19H26N2O3
